US04064270
step B: N'-(4-Diethylaminoacetylaminophenyl)-N,N-Dimethylacetamidine
1 g of potassium iodide is added to a solution of 23.2 g of N'-(4-chloroacetylaminophenyl)-N,N-dimethylacetamidine hydrochloride in 250 ml of ethanol and 14.6 g of diethylamine are added dropwise at 20° C. The mixture is heated under reflux for 2 hours and evaporated in vacuo, the residue is dissolved in water, sodium hydroxide solution is added and the organic phase is extracted with ether/chloroform. After distilling the organic phase, 7.9 g of N'-(4-diethylaminoacetylaminophenyl)-N,N-dimethylacetamidine, boiling point0.2 185°-187° C, are obtained. Addition of 1 mol of naphthalenedisulphonic acid to 1 mol of the base gives the naphthalenedisulphonate, melting point >260° C (decomposition) (recrystallized from ethanol/H2O). The naphthalene-disulphonate is best prepared from the crude undistilled base and naphthalenedisulphonic acid.

reactant | potassium iodide | 1 g | [I-].[K+]
reactant | N'-(4-chloroacetylaminophenyl)-N,N-dimethylacetamidine hydrochloride | 23.2 g | Cl.ClCC(=O)NC1=CC=C(C=C1)N=C(C)N(C)C
reactant | diethylamine | 14.6 g | C(C)NCC | C4H11N
reactant | naphthalenedisulphonic acid | 1 mol | C=1(C(=CC=C2C=CC=CC12)S(=O)(=O)O)S(=O)(=O)O | C10H8O6S2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | N'-(4-Diethylaminoacetylaminophenyl)-N,N-Dimethylacetamidine | C(C)N(CC)CC(=O)NC1=CC=C(C=C1)N=C(C)N(C)C | C16H26N4O
